US09260408B2
To a stirred solution of 5-(5-methyl-6-oxo-5,6,7,8-tetrahydro-[1,5]naphthyridin-2-yl)-nicotinic acid methyl ester (270 mg, 0.91 mmol) in MeOH (10 mL) was added sodium borohydride (300 mg, 8.0 mmol) at RT. After stirring overnight, the reaction mixture was quenched by adding water (5.0 mL). It was then concentrated in vacuo to give a light yellow oil. After extraction with EtOAc, the organic layer was washed with brine, dried over anhy. Na2SO4, filtered and concentrated in vacuo to give 6-(5-hydroxymethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one (190 mg, 77.6%) as a white solid. MS: 270.1 (M+H+).

reactant | 5-(5-methyl-6-oxo-5,6,7,8-tetrahydro-[1,5]naphthyridin-2-yl)-nicotinic acid methyl ester | 0.91 mmol, 270 mg | COC(C1=CN=CC(=C1)C1=NC=2CCC(N(C2C=C1)C)=O)=O | C16H15N3O3
reactant | sodium borohydride | 8.0 mmol, 300 mg | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 6-(5-hydroxymethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one | 190 mg, 77.6% | OCC=1C=C(C=NC1)C=1N=C2CCC(N(C2=CC1)C)=O | C15H15N3O2
